US09120761B2
(c) Methyl 2-(2-ethynylphenyl)acetate (I4)
Methyl 2-(2-((trimethylsilyl)ethynyl)phenyl)acetate (I10) (4.63 g, 19.0 mmol) was dissolved in DCM (200 mL) and TBAF (1.0 M in THF) (28.5 mL, 28.5 mmol, 1.5 eq) was added at 0° C. The resulting solution was stirred at room temperature for 1 hour before washing with 10% NaHCO3 (100 mL). The organic layer was dried (MgSO4) then evaporated under reduced pressure to give a dark brown/black residue. The residue was adsorbed onto silica and then chromatographed on silica gel (0-10% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I4) (2.76 g, 83%) as a red liquid; 1H NMR (400 MHz, CDCl3) δ 7.52 (dd, J=7.6, 1.1 Hz, 1H), 7.43-7.16 (m, 3H), 3.88 (d, J=9.6 Hz, 2H), 3.77-3.52 (m, 3H), 3.28 (s, 1H).

reactant | Methyl 2-(2-((trimethylsilyl)ethynyl)phenyl)acetate | 19.0 mmol, 4.63 g | C[Si](C)(C)C#CC1=C(C=CC=C1)CC(=O)OC | C14H18O2Si
reactant | TBAF | 28.5 mmol, 1.0 M, 28.5 mL, 1.5 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-ethynylphenyl)acetate | C(#C)C1=C(C=CC=C1)CC(=O)OC | C11H10O2
